### PR TITLE
Add results about `EReal`

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
- Add `mul_ne_top`, `mul_ne_bot`, `add_ne_top_iff_of_ne_bot`, `add_ne_top_iff_of_ne_bot_of_ne_top`, `add_ne_bot_iff`, `add_ne_bot`.
- Add `toENNReal_of_ne_top`, `toENNReal_ne_top_iff`, `real_coe_toENNReal`, `toReal_toENNReal`, `measurable_ereal_toENNReal`, `Measurable.ereal_toENNReal`.
- Add `ENNReal.toReal_toEReal_of_ne_top`.

### CODE REVIEW

File: TestingLowerBounds/ForMathlib/EReal.lean [hunk 1]
```diff
@@ -280,6 +317,25 @@ theorem toENNReal_le_toENNReal {x y : EReal} (h : x ≤ y) : x.toENNReal ≤ y.t
...
+  by_cases h : x = ⊤
+  · simp [h]
+  · simp [h, toReal_nonneg hx]
+
+@[measurability]
+theorem _root_.measurable_ereal_toENNReal : Measurable EReal.toENNReal :=
+  EReal.measurable_of_measurable_real (by simpa using ENNReal.measurable_ofReal)
+
+@[measurability, fun_prop]
+theorem _root_.Measurable.ereal_toENNReal {α : Type*} [MeasurableSpace α]
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/EReal.lean]: The measurable space can be inferred from `hf`.
```suggestion
theorem _root_.Measurable.ereal_toENNReal {α : Type*} {_ : MeasurableSpace α}
```

**Review by RemyDegenne — APPROVED** [review]
